US05318966
4.0 g (0.01525 mol) of ethyl 1,2,3,4-tetrahydro-5-methoxy-2-oxo-1-naphthylacetate were dissolved in 80 ml of toluene, 3.0 ml (0.0305 mol) of cyclopentylamine were added thereto and the mixture was boiled for 40 hours on a water separator. After concentration the residue was hydrogenated with 1.2 g of Raney-nickel in 500 ml of ethanol at 120° and 140 bar for 10 hours. The product was chromatographed over silica gel with cyclohexane/ether 1:1. There were obtained 2.0 g (46%) of rac-cis-3-cyclopentyl-1,3,3a,4,5,9b-hexahydro-6-methoxy-2H-benzo[e]indol-2-one as white crystals with m.p. 84°-88°.

reactant | ethyl 1,2,3,4-tetrahydro-5-methoxy-2-oxo-1-naphthylacetate | 0.01525 mol, 4.0 g | COC1=C2CCC(C(C2=CC=C1)CC(=O)OCC)=O | C15H18O4
reactant | cyclopentylamine | 0.0305 mol, 3.0 ml | C1(CCCC1)N | C5H11N
reactant | water | O | H2O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | rac-cis-3-cyclopentyl-1,3,3a,4,5,9b-hexahydro-6-methoxy-2H-benzo[e]indol-2-one | 2.0 g, 46% | C1(CCCC1)N1C(C[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)OC)=O | C18H23NO2
